US04017620
A mixture of 0.376 g. of 1-(3-benzoyl-4,5-dimethyl-2-thienyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid, 1.4g. of hydroxylamine hydrochloride, 1.46 g. of potassium carbonate, 0.15 g. of sodium iodide, 5 ml. of water and 5 ml. of ethanol is stirred for 1 hour on a water bath at 80° to 90° C. After cooling, the mixture is acidified with 6N-hydrochloric acid, diluted with water and then extracted with dichloromethane. The dichloromethane layer is washed with water, dried over sodium sulfate, and the solvent is evaporated to give 7,8-dimethyl-6-phenyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxylic acid 5-oxide as crystals. Recrystallization from acetone gives colorless prisms melting at 224° to 226° C. (decomposition).

reactant | 1-(3-benzoyl-4,5-dimethyl-2-thienyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=C(SC(=C1C)C)N1N=C(N=C1CCl)C(=O)O | C17H14ClN3O3S
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 7,8-dimethyl-6-phenyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxylic acid 5-oxide | CC1=C(SC2=C1C(=[N+](CC=1N2N=C(N1)C(=O)O)[O-])C1=CC=CC=C1)C | C17H14N4O3S
